US08669234B2
2-Amino-2-(4-bromo-phenyl)propionic acid ethyl ester:
To a solution of 2-amino-2-(4-bromo-phenyl)-propionic acid (1.0 g, 4.1 mmol) in ethanol (20 mL) was bubbled through HCl gas for five minutes. The mixture was stirred at ambient for 24 hours, then refluxed for 18 hours. The volatile component was removed in vacuo, and the residue was dissolved in ethyl acetate (150 mL), washed with NaHCO3 solution, water and brine, dried over MgSO4, filtered and concentrated in vacuo. The obtained residue was purified by flash chromatography to provide the desired product (800 mg, 72%). m/z 271.7, 273.7 (M+H)+.

reactant | 2-amino-2-(4-bromo-phenyl)-propionic acid | 4.1 mmol, 1.0 g | NC(C(=O)O)(C)C1=CC=C(C=C1)Br | C9H10BrNO2
reactant | HCl | Cl | ClH
reactant | ethanol | 20 mL | C(C)O | C2H6O
product | 2-Amino-2-(4-bromo-phenyl)propionic acid ethyl ester | 800 mg, 72% | C(C)OC(C(C)(C1=CC=C(C=C1)Br)N)=O | C11H14BrNO2
